US06756390B2
Preparation of Amlodipine (S)-Tetrahydro-5-oxo-2-furancarboxylate
Amlodipine (10 g, 0.025 mole) was dissolved in ethyl acetate (100 ml) with stirring. The solution was adjusted to 3° C. and slowly added with (S)-tetrahydro-5-oxo-2-furancarboxylic acid (3.69 g, 0.028 mole) prepared according to Korean Pat. Publication No. 0159540 to obtain a clear solution. This reaction was stirred at 3° C. for 20 hour to produce precipitates. They were filtered off and washed with ethyl acetate (50 ml), followed by drying at 40° C. under vacuum to give 12.4 g of the title compound (Yield 92.0%).

reactant | Amlodipine | 0.025 mole, 10 g | CCOC(=O)C1=C(NC(=C(C1C=2C=CC=CC2Cl)C(=O)OC)C)COCCN | C20H25ClN2O5
reactant | (S)-tetrahydro-5-oxo-2-furancarboxylic acid | 0.028 mole, 3.69 g | O=C1CC[C@H](O1)C(=O)O | C5H6O4
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Amlodipine (S)-Tetrahydro-5-oxo-2-furancarboxylate | 12.4 g, Yield 92.0% | CCOC(=O)C1=C(NC(=C(C1C=2C=CC=CC2Cl)C(=O)OC)C)COCCN.O=C1CC[C@H](O1)C(=O)[O-] | InChI=1S/C20H25ClN2O5.C5H6O4/c1-4-28-20(25)18-15(11-27-10-9-22)23-12(2)16(19(24)26-3)17(18)13-7-5-6-8-14(13)21;6-4-2-1-3(9-4)5(7)8/h5-8,17,23H,4,9-11,22H2,1-3H3;3H,1-2H2,(H,7,8)/p-1/t;3-/m.0/s1
